US07074742B2
Step A: Preparation of 3-Chloro-α-methyl-5-(trifluoromethyl)-2-pyridinemethanamine
N-(diphenylmethylene)glycine ethyl ester (2.25 g) was added to a suspension of sodium hydride (0.74 g of 60% oil dispersion) in 20 mL of dry N,N-dimethylformamide at room temperature, resulting in vigorous gas evolution. After stirring at room temperature for five minutes, 2 g of 2,3-dichloro-5-trifluoromethylpyridine was added, followed by stirring at room temperature for 1 hour. Then 0.80 mL of methyl iodide was added followed by stirring at room temperature overnight. The reaction mixture was poured onto ice water, extracted with diethyl ether (2×), and distilled under vacuum to remove the solvent leaving an oil. The oil was then refluxed in 6 N HCl overnight. The reaction mixture was cooled to room temperature, made basic with solid sodium carbonate and extracted with diethyl ether (2×). The combined extracts were dried over magnesium sulfate and distilled under vacuum to remove the solvent, leaving 1.5 g of an oil. 1H NMR (CDCl3; 300 MHz) δ 1.4 (d, 3H, J is 6.6 Hz), 4.6 (bs, 1H), 7.88 (m, 1H), 8.75 (bs, 1H).

reactant | N-(diphenylmethylene)glycine ethyl ester | 2.25 g | C(C)OC(CN=C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C17H17NO2
reactant | sodium hydride | 0.74 g | [H-].[Na+]
reactant | 2,3-dichloro-5-trifluoromethylpyridine | 2 g | ClC1=NC=C(C=C1Cl)C(F)(F)F | C6H2Cl2F3N
reactant | methyl iodide | 0.80 mL | CI | CH3I
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | HCl | 6 N | Cl | ClH
product | 3-Chloro-α-methyl-5-(trifluoromethyl)-2-pyridinemethanamine | 1.5 g | ClC=1C(=NC=C(C1)C(F)(F)F)C(N)C | C8H8ClF3N2
